US07419986B2
2-[3-(1H-Indol-3-ylmethyl)-azetidin-1-ylmethyl]-8-methyl-2,3-dihydro-[1,4]dioxino[2,3-f]quinoline
This compound was prepared as described for Example 1, using (2R)-4-bromobenzenesulfonic acid 8-methyl-2,3-dihydro-[1,4]dioxino[2,3-f]quinolin-2-ylmethyl ester (0.26 g, 0.59 mmol), 3-azetidin-3-ylmethyl-1H-indole (0.11 g, 0.59 mmol), to afford 0.035 g of the (S)-enantiomer of the title compound as a light brown foam. 1H NMR (500 MHz, DMSO-D6): δ 2.74-2.82 (m, 3H), 2.90 (d, J=7.5 Hz, 2H), 2.96 (t, J=6.6 Hz, 2H), 3.03 (t, J=6.6 Hz, 2H), 3.51 (t, J=6.8 Hz, 2H), 3.42 (t, J=6.8 Hz, 2H), 4.08 (m, 1H), 4.30-4.32 (m, 1H), 4.37 (m, 1H), 6.94-6.97 (m, 1H), 7.04-7.08 (m, 2H), 7.30-7.36 (m, 3H), 7.42 (d, J=9.1Hz, 1H), 7.48 (d, J=7.9 Hz, 1H), 8.19 (d, J=8.5 Hz, 1H).

reactant | (2R)-4-bromobenzenesulfonic acid 8-methyl-2,3-dihydro-[1,4]dioxino[2,3-f]quinolin-2-ylmethyl ester | 0.59 mmol, 0.26 g | CC1=NC2=CC=C3C(=C2C=C1)O[C@H](CO3)COS(=O)(=O)C3=CC=C(C=C3)Br | C19H16BrNO5S
reactant | 3-azetidin-3-ylmethyl-1H-indole | 0.59 mmol, 0.11 g | N1CC(C1)CC1=CNC2=CC=CC=C12 | C12H14N2
product | 2-[3-(1H-Indol-3-ylmethyl)-azetidin-1-ylmethyl]-8-methyl-2,3-dihydro-[1,4]dioxino[2,3-f]quinoline | N1C=C(C2=CC=CC=C12)CC1CN(C1)CC1COC=2C(=C3C=CC(=NC3=CC2)C)O1 | C25H25N3O2
